US07452886B2
To the mixture of 100 mg (0.30 mmoles) of 7-(2,2-Dimethyl-propyl)-6-(4-oxo-piperidin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile, 40 mg (0.60 mmoles) of [1,2,4]triazol-4-ylamine and 0.16 ml (1.1 mmoles) of triethylamine in 5 ml of CH2Cl2, 58 mg (0.48 mmoles) of MgSO4 is added at ambient temperature and the mixture is stirred for 17.5 hours at ambient temperature. The reaction mixture is filtered to remove MgSO4 and concentrated under reduced pressure to give crude imine. To a solution of crude imine in 5 ml of MeOH, 13 mg (0.33 mmoles) of NaBH4 is added at −10-−20° C., and the reaction mixture is stirred at 0° C. for 1 h. After addition of 5 ml of acetone, the mixture is concentrated, diluted with H2O, and then extracted with CH2Cl2. The combined extrats are washed with brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give 85 mg of desired 6-(4-amino-piperidin-1-ylmethyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 85% yield.

reactant | 7-(2,2-Dimethyl-propyl)-6-(4-oxo-piperidin-1-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.30 mmoles, 100 mg | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCC(CC2)=O)(C)C | C18H23N5O
reactant | [1,2,4]triazol-4-ylamine | 0.60 mmoles, 40 mg | N=1N=CN(C1)N | C2H4N4
reactant | triethylamine | 1.1 mmoles, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | MgSO4 | 0.48 mmoles, 58 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaBH4 | 0.33 mmoles, 13 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 ml | CO | CH4O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 6-(4-amino-piperidin-1-ylmethyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 85 mg, 85% yield | NC1CCN(CC1)CC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C18H26N6
